US07718668B2
5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-6-yl)-1-methyl-1H-pyridin-2-one 2-oxoglutarate
5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-6-yl)-1-methyl-1H-pyridin-2-one (38.2 mg, 0.1 mmol) are dissolved in 0.5 ml of acetone. 16.1 mg (0.11 mmol) of 2-oxo-pentanedioic acid (dissolved in 0.5 ml of acetone) are added. The crystals are filtered off and dried to obtain 35.3 mg (67%) of the titlee compound (m. p.: 147° C.).

reactant | 5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-6-yl)-1-methyl-1H-pyridin-2-one | 0.1 mmol, 38.2 mg | C(C)OC1=C(C=C2C(=N[C@@H]3CC[C@H](C[C@@H]3C2=C1)O)C=1C=CC(N(C1)C)=O)OC | C22H26N2O4
reactant | 2-oxo-pentanedioic acid | 0.11 mmol, 0.5 ml, 16.1 mg | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | acetone | 0.5 ml | CC(=O)C | C3H6O
product | 5-((2R,4aR,10bR)-9-Ethoxy-2-hydroxy-8-methoxy-1,2,3,4,4a, 10b-hexahydro-phenanthridin-6-yl)-1-methyl-1H-pyridin-2-one 2-oxoglutarate | 35.3 mg, 67% | O=C(C(=O)O)CCC(=O)O.C(C)OC1=C(C=C2C(=N[C@@H]3CC[C@H](C[C@@H]3C2=C1)O)C=1C=CC(N(C1)C)=O)OC | InChI=1S/C22H26N2O4.C5H6O5/c1-4-28-20-10-15-16-9-14(25)6-7-18(16)23-22(17(15)11-19(20)27-3)13-5-8-21(26)24(2)12-13;6-3(5(9)10)1-2-4(7)8/h5,8,10-12,14,16,18,25H,4,6-7,9H2,1-3H3;1-2H2,(H,7,8)(H,9,10)/t14-,16-,18-;/m1./s1
